US03969363
A suspension of the sodium salt of 6-methyl-nicotinoyl-acetone in anhydrous toluene is saturated with hydrogen chloride and then reacted with thionyl chloride in a known manner. Reduction of the reaction product gives 1-(2-methyl-5-pyridyl)-3-chloro-butan-1-ol hydrochloride which is used without additional purification

reactant | sodium | [Na] | Na
reactant | 6-methyl-nicotinoyl-acetone | CC1=NC=C(C(=O)CC(C)=O)C=C1 | C10H11NO2
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2-methyl-5-pyridyl)-3-chloro-butan-1-ol hydrochloride | Cl.CC1=NC=C(C=C1)C(CC(C)Cl)O | InChI=1S/C10H14ClNO.ClH/c1-7(11)5-10(13)9-4-3-8(2)12-6-9;/h3-4,6-7,10,13H,5H2,1-2H3;1H
